US05587379
Under a nitrogen atmosphere a stirred solution of 1.5 mL (0.014 mole) of 3-ethoxyacrylonitrile in 45 mL of tetrahydrofuran was cooled to about -110° C., and 6.2 mL (0.015 mole) of 2.5M n-butyllithium in hexanes was added dropwise at a rate to keep the reaction mixture temperature below -65° C. Upon completion of addition, the reaction mixture was stirred for about ten minutes, and then a solution of 4.0 grams (0.014 mole) of 3-(naphth-1-yl)propyl iodide in 15 mL of tetrahydrofuran was added dropwise. Upon completion of addition, the reaction mixture was stirred at about -78° C. for two hours. After this time the reaction mixture was allowed to warm to ambient temperature as it stirred for about 16 hours. The reaction mixture was concentrated under reduced pressure, yielding a dark residual oil. The oil was passed through a short column of silica gel using methylene chloride as the eluant. The eluate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished using 2:1 methylene chloride and petroleum ether. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.0 gram of 1-ethoxy-2-cyano-5-(naphth-1-yl)-1-pentene. The NMR spectrum was consistent with the proposed structure.

reactant | 3-ethoxyacrylonitrile | 0.014 mole, 1.5 mL | C(C)OC=CC#N | C5H7NO
reactant | n-butyllithium | 0.015 mole, 2.5M, 6.2 mL | C(CCC)[Li]
reactant | 3-(naphth-1-yl)propyl iodide | 0.014 mole, 4.0 grams | C1(=CC=CC2=CC=CC=C12)CCCI | C13H13I
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-ethoxy-2-cyano-5-(naphth-1-yl)-1-pentene | 1.0 gram | C(C)OC=C(CCCC1=CC=CC2=CC=CC=C12)C#N | C18H19NO
